US06211199B1
5.4.1 Synthesis of (R)-1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-methyl-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine
Combine (S)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (0.34 g, 0.63 mmol) and (1-methyl-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.24 g, 1.0 mmol), and N,N-diisopropylethylamine (0.26 mL, 2.4 mmol) in acetonitrile (25 mL). Heat to reflux. After 2 days, cool and dilute the reaction mixture with ethyl acetate. Extract twice with 1/1 brine/water, saturated aqueous sodium bicarbonate, and brine. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on a short column of silica gel eluting sequentially with ethyl acetate and then 50% methanol/ethyl acetate to give a residue. Partition the residue between ethyl acetate and water. Separate the layers and extract the organic layer with water. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to give the title compound: Rf=0.24 (silica gel, 30% methanol/ethyl acetate).

reactant | (S)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 0.63 mmol, 0.34 g | COC=1C=C(C(=O)N2C[C@@](CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C23H27Cl2NO7S
reactant | (1-methyl-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 1.0 mmol, 0.24 g | CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C13H18N4
reactant | N,N-diisopropylethylamine | 2.4 mmol, 0.26 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-methyl-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)pyrrolidine | COC=1C=C(C(=O)N2C[C@](CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)NC2=NC3=C(N2C)C=CC=C3)C=C(C1OC)OC | C35H41Cl2N5O4
